US07557213B2
Experimental conditions analogous to those described for Step 3 of Example 1 were used with 112 mg (0.358 mmol) of 3-(3-Fluoro-4-methoxy-benzoyl)-6-methyl-1H-[1,5]naphthyridin-4-one, 107.5 mg (0.430 mmol) of 3-bromobenzyl bromide, 17.2 mg (0.430 mmol, 60% dispersion in oil), and 2 mL of N,N-dimethylformamide. The crude product was purified on the reverse phase HPLC with a C18 column, gradient of 20-70% acetonitrile—0.1% TFA to yield 67 mg of 1-(3-Bromo-benzyl)-3-(3-fluoro-4-methoxy-benzoyl)-6-methyl-1H-[1,5]naphthyridin-4-one. LC-MSD, m/z for C24H18BrFN2O3 [M+H]: 481.05. LC retention time on HPLC, C18 column gradient 20-95% acetonitrile with 0.1% TFA in 4 minutes: 2.7 min

reactant | 3-(3-Fluoro-4-methoxy-benzoyl)-6-methyl-1H-[1,5]naphthyridin-4-one | 0.358 mmol, 112 mg | FC=1C=C(C(=O)C2=CNC3=CC=C(N=C3C2=O)C)C=CC1OC | C17H13FN2O3
reactant | 3-bromobenzyl bromide | 0.430 mmol, 107.5 mg | BrC=1C=C(CBr)C=CC1 | C7H6Br2
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 1-(3-Bromo-benzyl)-3-(3-fluoro-4-methoxy-benzoyl)-6-methyl-1H-[1,5]naphthyridin-4-one | 67 mg | BrC=1C=C(CN2C=C(C(C3=NC(=CC=C23)C)=O)C(C2=CC(=C(C=C2)OC)F)=O)C=CC1 | C24H18BrFN2O3
